US08461328B2
A mixture of 1-benzenesulfonyl-4-chloro-5-nitro-1H-pyrrolo[2,3-b]pyridine (0.433 g, 1.28 mmol), 4,4-difluorocyclohexyl amine hydrochloride (0.242 g, 1.41 mmol), diisopropylethylamine (0.491 ml, 2.82 mmol) in propan-2-ol (10 ml) was heated at 110° C. in a microwave reactor for 20 min. The mixture was then cooled to 25° C. and was partitioned between water (50 ml) and CH2Cl2 (2×100 ml). The combined organic layers were dried over MgSO4, filtered, and the filtrate was concentrated under reduced pressure. Purification of the resulting yellow solid by column chromatography on silica gel (gradient: 0 to 60% EtOAc in heptanes) afforded (1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-yl)-(4,4-di fluoro-cyclohexyl)-amine (0.46 g, 82%) as a yellow solid. LCMS (Method G, ESI): RT=1.21 min, m+H=437; 1H NMR (400 MHz, DMSO) δ 8.91 (s, 1H), 8.83 (d, J=8.1 Hz, 1H), 8.13 (d, J=7.5 Hz, 2H), 7.84 (d, J=4.2 Hz, 1H), 7.77 (t, J=7.4 Hz, 1H), 7.66 (t, J=7.8 Hz, 2H), 7.17 (d, J=4.3 Hz, 1H), 4.39-4.26 (m, 1H), 2.29-1.98 (m, 6H), 1.83-1.68 (m, 2H).

reactant | 1-benzenesulfonyl-4-chloro-5-nitro-1H-pyrrolo[2,3-b]pyridine | 1.28 mmol, 0.433 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2Cl)[N+](=O)[O-] | C13H8ClN3O4S
reactant | 4,4-difluorocyclohexyl amine hydrochloride | 1.41 mmol, 0.242 g | Cl.FC1(CCC(CC1)N)F
reactant | diisopropylethylamine | 2.82 mmol, 0.491 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | propan-2-ol | 10 ml | CC(C)O | C3H8O
product | (1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-yl)-(4,4-di fluoro-cyclohexyl)-amine | 0.46 g, 82% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2NC2CCC(CC2)(F)F)[N+](=O)[O-] | C19H18F2N4O4S
